US08202876B2
Methyl-4-(6-methylsulfanyl-pyrimidin-4-yl)-1H-pyrazol-3-ylamine (61 mg, 0.27 mmol) is mixed with N-(3-Bromo-4-methyl-phenyl)-3-trifluoromethyl-benzamide (161 mg, 0.45 mmol), palladium acetate (20 mg, 0.089 mmol), Xantophos (78 mg, 0.135 mmol) and cesium carbonate (280 mg, 0.86 mmol). 2 mL anhydrous 1,4-dioxane is added under nitrogen environment and the mixture is subjected to microwave irradiation to 150° C. for 45 minutes. The reaction mixture is then cooled to room temperature, treated with 100 mL THF, passed through a celite column and concentrated. The crude product is purified by ISCO chromatography eluting with ethyl acetate in hexanes from 10% to 100% to afford N-{4-Methyl-3-[1-methyl-4-(6-methylsulfanyl-pyrimidin-4-yl)-1H-pyrazol-3-ylamino]-phenyl}-3-trifluoromethyl-benzamide.

reactant | Methyl-4-(6-methylsulfanyl-pyrimidin-4-yl)-1H-pyrazol-3-ylamine | 0.27 mmol, 61 mg | CNC1=NNC=C1C1=NC=NC(=C1)SC | C9H11N5S
reactant | N-(3-Bromo-4-methyl-phenyl)-3-trifluoromethyl-benzamide | 0.45 mmol, 161 mg | BrC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C15H11BrF3NO
reactant | cesium carbonate | 0.86 mmol, 280 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.089 mmol, 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-{4-Methyl-3-[1-methyl-4-(6-methylsulfanyl-pyrimidin-4-yl)-1H-pyrazol-3-ylamino]-phenyl}-3-trifluoromethyl-benzamide | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)NC1=NN(C=C1C1=NC=NC(=C1)SC)C | C24H21F3N6OS
